US07405230B2
3-Cyclopentyloxy-4-methoxy-N-(4-amino-3-carboxyphenyl)-N-(3-pyridylmethyl)aniline
A solution of 3-cyclopentyloxy-4-methoxy-N-(3-carboxy-4-nitrophenyl)-N-(3-pyridylmethyl)aniline (200 mg, 0.43 mmol) in 20 mL of EtOAc and 5 mL of EtOH was hydrogenated at atmospheric pressure over 20 mg of PtO2 with stirring for 16 hours. The catalyst was removed by filtration and the solution concentrated. The residue was chromatographed over SiO2 using MeOH/DCM (1/10) as eluant. The oily residue was further purified by trituration with 1 mL of CH3CN to give 52 mg (28% yield) of the target compound.

reactant | 3-cyclopentyloxy-4-methoxy-N-(3-carboxy-4-nitrophenyl)-N-(3-pyridylmethyl)aniline | 0.43 mmol, 200 mg | C1(CCCC1)OC=1C=C(N(CC=2C=NC=CC2)C2=CC(=C(C=C2)[N+](=O)[O-])C(=O)O)C=CC1OC | C25H25N3O6
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 mL | CCO | C2H6O
catalyst | PtO2 | 20 mg | O=[Pt]=O
product | 3-Cyclopentyloxy-4-methoxy-N-(4-amino-3-carboxyphenyl)-N-(3-pyridylmethyl)aniline | 52 mg, 28% yield | C1(CCCC1)OC=1C=C(N(CC=2C=NC=CC2)C2=CC(=C(C=C2)N)C(=O)O)C=CC1OC | C25H27N3O4
